data/pmechdb/original/mc_train_fold0/raw/train.txt
COC1COC(C(C1OC)OS(=O)(=O)C)[O-:10].[CH3:20][O:21]S(=O)(=O)C>>COC1COC(C(C1OC)OS(=O)(=O)C)[O:10][CH3:20].CS(=O)(=O)[O-:21] 10=20;20,21=21
C[CH:20](CCC1CCCC1)[O:21]S(=O)Cl.[Cl-:10].CC(CCC1CCCC1)[OH2+]>>C[CH:20](CCC1CCCC1)[Cl:10].[O-:21]S(=O)Cl.CC(CCC1CCCC1)[OH2+] 10=20;20,21=21
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C=C1[N+](=O)[O-])OC)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:24]1=[CH:23][CH:22]=[C:21](C(=C1)[N+](=O)[O-])[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[C:20](=[O:21])Cl.[N-:10]=[N+]=[N-]>>CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[C:20]([N:10]=[N+]=[N-])([O-:21])Cl 10=20;20,21=21
CC(=O)OC12CCCCC1[C:11]3([CH:10]2CCC[CH:20]3[O:21]S(=O)(=O)C)[OH:12].C1=CC=[NH+]C=C1.[Cl-]>>CC(=O)OC12CCCCC1[C:11](=[OH+:12])[CH:20]3[CH:10]2CCC3.CS(=O)(=O)[O-:21].C1=CC=[NH+]C=C1.[Cl-] 10,11=10,20;20,21=21;12=11
CCO[C:11](=[C:10]([CH2:20][N+:21]12CCN(CC1)CC2)C(C3=C(C=CC=C3)OC)O)[O-:12]>>C1CN2CC[N:21]1CC2.CCO[C:11](=[O:12])[C:10](=[CH2:20])C(C1=C(C=CC=C1)OC)O 10,11=10,20;20,21=21;12=11
CCCC(CCO)C1CCCCC1.CC[OH+:21][C:20]1(CC2CCCCC2CO1)[OH:10]>>CCCC(CCO)C1CCCCC1.CC[OH:21].C1CCC2CO[C:20](=[OH+:10])CC2C1 10=20;20,21=21
CC(=O)CC[C:20](C1=CC=C(C=C1)S(=O)(=O)C)([NH:10]C2=CC=C(C=C2)F)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(=O)CC[C:20](=[NH+:10]C1=CC=C(C=C1)F)C2=CC=C(C=C2)S(=O)(=O)C.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[Si](C)(C)C(=C=C)C1CCC2CCCCC2(O1)[OH+][Na:20].[OH-:10].B1(C2CCCC1CCC2)O>>C[Si](C)(C)C(=C=C)C1CCC2CCCCC2(O1)[OH+][Na-:20][OH:10].B1(C2CCCC1CCC2)O 10=20,
[CH2-:10]C1=CC=NC=C1.[CH2:20]=[O:21]>>C1=CN=CC=C1[CH2:10][CH2:20][O-:21] 10=20;20,21=21
[H:20][N+:21](=C(C1=CC=CC=C1)C(=O)C2=CC=CC=C2)CCN.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1=CC=C(C=C1)C(=[N:21]CCN)C(=O)C2=CC=CC=C2.O 10=20;20,21=21
[H:20][C:21](C(C(=O)C)C(=O)OCC)([C:22](=[NH2+:23])C)C(=O)OCC.[OH-:10].CO.N>>[H:20][OH:10].CCOC(=O)C(C(=O)C)[C:21](=[C:22](C)[NH2:23])C(=O)OCC.CO.N 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C(CC)C(C)Br.[OH2:10]>>[H:20][OH2+:10].CCC(C(C)Br)[OH:21] 10=20;20,21=21
C[N:10](C)[CH2:20][I:21]>>C[N+:10](=[CH2:20])C.[I-:21] 10=20;20,21=21
[H:20][O+:21]=C1CCC(CC1)OCC2=CC=CC=C2.CC(=O)[O-:10].C1CCOC1.C(CO)O.O>>[H:20][O:10]C(=O)C.C1CC(=[O:21])CCC1OCC2=CC=CC=C2.C1CCOC1.C(CO)O.O 10=20;20,21=21
C1CC[C:20](=[O+:21]C2=C(C=CC=C2)[OH:10])CC1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>C1CC[C:20]2(CC1)[OH+:10]C3=C([O:21]2)C=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
CC(CC[O-:10])[C:20](=[O:21])C>>CC1CC[O:10][C:20]1(C)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].C[C:11]1=[CH:10]CCCC1.[Cl-]>>[H:20][CH:10]1CCCC[C+:11]1C.[OH2:21].[Cl-] 10,11=10,20;20,21=21
[Li-:10]([N+:11](=CC(C)(C(CCCCCCC)O)[Si](CC)(CC)CC)C(C)(C)C)[OH2+]>>[Li:10][OH2+].CCCCCCCC(C(C)(C=[N:11]C(C)(C)C)[Si](CC)(CC)CC)O 10,11=11
C[CH2:20][O:21][P+:22](C)(C)C.C1CC(=O)[N-:10]C1=O>>C[CH2:20][N:10]1C(=O)CCC1=O.C[P:22](=[O:21])(C)C 10=20;20,21=21,22
C1=CC=C(C=C1)C(=O)O[C:11]2=[CH:10]C=C(C=C2Br)Br.[Br:20][Br:21]>>C1=CC=C(C=C1)C(=O)O[C+:11]2[CH:10](C=C(C=C2Br)Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CCCCO[Si-:10](C)(C)(C)[O+:11]=C(C=C(C)CC(C=CC=CI)O[Ti-](OCCCC)(OCCCC)(OCCCC)OCCCC)OC>>CCCCO[Si:10](C)(C)C.CCCCO[Ti-](OCCCC)(OCCCC)(OCCCC)OC(CC(=CC(=[O:11])OC)C)C=CC=CI 10,11=11
[H:20][O+:21](C)C1=CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3C.C[N:10]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4>>[H:20][N+:10]1(CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4)C.CN1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=CC4)[O:21]C 10=20;20,21=21
[H:20][CH:21](C)[CH:22](C)[O:23]S(=O)(=O)C1=CC=C(C=C1)C.[NH2-:10]>>CC1=CC=C(C=C1)S(=O)(=O)[O-:23].C[CH:21]=[CH:22]C.[H:20][NH2:10] 10=20;22,23=23;20,21=21,22
C1[CH2:20][O:21]1.[OH-:10]>>[CH2:20](C[O-:21])[OH:10] 10=20;20,21=21
[H:20][C:21](C=CC1=CC=CC=C1)(C(=O)OC)N=NNS(=O)(=O)C2=CC=C(C=C2)NC(=O)C.C1CCN2CCCC[N:10]=C2C1>>[H:20][N+:10]1=C2CCCCN2CCCC1.CC(=O)NC1=CC=C(C=C1)S(=O)(=O)NN=N[C-:21](C=CC2=CC=CC=C2)C(=O)OC 10=20;20,21=21
[B-]1(OC(C(=O)O1)C(C(=O)O)OC(=O)C2=C(C=CC=C2OC(C)C)OC(C)C)(C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)OC(C[C+:20](CC(C)CC4CC=CC(O4)C=C)[CH2:10][Si-:11](C)(C)(C)[O+]=C(CC)O)C=CCC(C(C=CC5CC(=CCO5)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C.CCC#N>>[B-]1(OC(C(=O)O1)C(C(=O)O)OC(=O)C2=C(C=CC=C2OC(C)C)OC(C)C)(C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)OC(C[C:20](=[CH2:10])CC(C)CC4CC=CC(O4)C=C)C=CCC(C(C=CC5CC(=CCO5)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C.CCC(=[O+][Si:11](C)(C)C)O.CCC#N 10,11=10,20
CN[C:10](=[OH+:11])NC>>CN[C+:10](NC)[OH:11] 10,11=11
[H:20][OH+:21]C(C)C.CC(C)O[Al-](OC1CCN(CC1)C)([O:14][C:13]2=[CH:12][C:11]3=[CH:10]CC4C5CCC(=O)C5(CCC4C3(CC2)O)C)OC(C)C>>[H:20][CH:10]1CC2C3CCC(=O)C3(CCC2C4([C:11]1=[CH:12][C:13](=[O+:14][Al-](OC5CCN(CC5)C)(OC(C)C)OC(C)C)CC4)O)C.CC(C)[OH:21] 10,11=10,20;20,21=21;12,13=11,12;14=13
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(OCC4=CC=C(O4)C=O)[Br:11].C1CC(=O)NC1=O>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC=C(O4)C=O.[Br-:11].C1CC(=O)NC1=O 10,11=11
C[C:20](=[O:21])C(C)(C)CC[O-:10]>>CC1(CC[O:10][C:20]1(C)[O-:21])C 10=20;20,21=21
[H:20][NH:21]C(=O)C=C.[OH-:10]>>[H:20][OH:10].C=CC(=O)[NH-:21] 10=20;20,21=21
